datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][O:35][H:36],-5.819944
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:16]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7],32.677
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24])[H:13])[H:12])([H:10])[H:11],49.0365
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[H:9])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1]([C:2](=[C:3]([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:16][O:17],39.003248
[O:0][O:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([O:8][O:9][H:20])[H:19]>>[O:0][O:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([O:8])[H:19].[O:9][H:20],75.312
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:12])([H:13])[H:14])([H:11])[C:3]12[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]2[H:19],64.086328
[C:1](=[C:2]([H:3])[H:4])([C:5]([c:6]1[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]1)([H:18])[H:19])[H:20]>>[C:1]1([H:20])[C:2]([H:3])([H:4])[c:8]2[c:6]([c:16]([H:9])[c:14]([H:15])[c:12]([H:13])[c:10]2[H:11])[C:5]1([H:18])[H:19],42.542912
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[O:25][H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[H:10][O:25][H:26],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:15])([H:16])[H:17])[C:12]([H:18])([H:19])[H:20])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:13])[H:14])([C:11]([H:15])([H:16])[H:17])[C:12]([H:18])([H:19])[H:20])[H:4],47.2374
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])[H:7],26.1082
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15]([O:16][H:25])[H:24])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:15]([C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:21])([H:22])[H:23])[H:20])([O:16][H:25])[H:24],15.31344
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:10])([H:8])[H:9],60.4588
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([C:8](=[C:9]([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:10])[H:11])[H:12])([C:8](=[C:9]([H:15])[H:16])[H:14])[H:13],138.49
[C:0](=[C:1]([C:2](=[C:3]=[C:4]([H:9])[H:10])[C:5]#[C:6][H:11])[H:8])[H:7]>>[C:0]1([H:7])=[C:1]([H:8])[C:2]([C:5]#[C:6][H:11])=[C:3][C:4]1([H:9])[H:10],64.2244
